US06252041B1
A mixture of benzyl N-Boc-5-aminovalerate (4 g) thus obtained in TFA (50 ml) was stirred at room temperature for 20 minutes. After the TFA was removed in vacuo, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The separated ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo to afford 2.7 g of benzyl 5-aminovalerate.

reactant | benzyl N-Boc-5-aminovalerate | 4 g | C(=O)(OC(C)(C)C)NCCCCC(=O)OCC1=CC=CC=C1 | C17H25NO4
solvent | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | benzyl 5-aminovalerate | 2.7 g | NCCCCC(=O)OCC1=CC=CC=C1 | C12H17NO2
